US08048894B2
Method 10. Preparation of Methyl 6-chloro-4-hydroxy-1-methyl-2-oxo-1,2-dihydro-1,7-naphthyridine-3-carboxylate
Methyl 5-(tert-butoxycarbonyl)-2-chloroisonicotinate. To a solution of 5-(tert-butoxycarbonyl)-2-chloroisonicotinic acid (1 g, 3.7 mmol) in dry DMF (10 mL) was added NaH (60% suspension in mineral oil, 0.37 g, 9.24 mmol) in small portions with stirring and cooling using an ice-bath. After addition, the reaction mixture was treated with MeI (0.524 mL, 9.24 mmol) dropwise, and then stirred at room temperature for 1 hour. The reaction mixture was poured into water and stirred at room temperature for 3 hours. The precipitate was filtered and dried in vacuo to afford the title compound as a solid.

reactant | Methyl 5-(tert-butoxycarbonyl)-2-chloroisonicotinate | C(C)(C)(C)OC(=O)C1=CN=C(C=C1C(=O)OC)Cl | C12H14ClNO4
reactant | 5-(tert-butoxycarbonyl)-2-chloroisonicotinic acid | 3.7 mmol, 1 g | C(C)(C)(C)OC(=O)C1=CN=C(C=C1C(=O)O)Cl | C11H12ClNO4
reactant | NaH | 9.24 mmol, 0.37 g | [H-].[Na+]
reactant | MeI | 9.24 mmol, 0.524 mL | CI | CH3I
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Methyl 6-chloro-4-hydroxy-1-methyl-2-oxo-1,2-dihydro-1,7-naphthyridine-3-carboxylate | ClC=1C=C2C(=C(C(N(C2=CN1)C)=O)C(=O)OC)O | C11H9ClN2O4
